US04283403
3-(4-fluorophenyl)-5-isothiocyanatomethyl-2-isoxazoline
A 12.5 g. portion of 4-fluorobenzaldoxime was chlorinated and reacted with 50 ml. of allylisothiocyanate to prepare 3.4 g. of product, m.p. 59°-61°.

reactant | 4-fluorobenzaldoxime | FC1=CC=C(C=NO)C=C1 | C7H6FNO
reactant | allylisothiocyanate | C(C=C)N=C=S | C4H5NS
product | 3-(4-fluorophenyl)-5-isothiocyanatomethyl-2-isoxazoline | FC1=CC=C(C=C1)C1=NOC(C1)CN=C=S | C11H9FN2OS
